US07427630B2
2-(Methyloxy)-4-(1H-pyrazol-1-yl)aniline
To a solution of 4-bromo-2-(methyloxy)aniline (400 mg, 1.979 mmol) in anh. NMP (4 mL), at r.t., under N2, were added pyrazole (269 mg, 2 eq), K2CO3 (819 mg, 3 eq), CuI (377 mg, 1 eq) and (1R,2R)-diaminomethylcyclohexane (281 mg, 1 eq). The reaction mixture was stirred at 150° C. for 3 hr. It was cooled down to r.t. and poured into EtOAc/sat.aq. NaCl. The phases were separated and the organic layer was washed with sat.aq. NH4Cl (20 mL) and sat.aq. NaCl (20 mL). The combined aqueous layers were extracted back with EtOAc (20 mL) and the combined organic extracts were dried over anh. Na2SO4. The solids were filtered and the solvent evaporated. The crude product was purified by flash chromatography (silica gel, cHex/EtOAc 7:3) to give the title compound as a brown oil (336 mg, 90%)

reactant | 4-bromo-2-(methyloxy)aniline | 1.979 mmol, 400 mg | BrC1=CC(=C(N)C=C1)OC | C7H8BrNO
reactant | pyrazole | 269 mg, 2 eq | N1N=CC=C1 | C3H4N2
reactant | K2CO3 | 819 mg, 3 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | (1R,2R)-diaminomethylcyclohexane | 281 mg, 1 eq | CN[C@@H]1CCCC[C@H]1NC | C8H18N2
reactant | NaCl | [Na+].[Cl-]
solvent | NMP | 4 mL | CN1CCCC1=O | C5H9NO
catalyst | CuI | 377 mg, 1 eq | [Cu]I
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(Methyloxy)-4-(1H-pyrazol-1-yl)aniline | 336 mg, 90% | COC1=C(N)C=CC(=C1)N1N=CC=C1 | C10H11N3O
